US09428477B2
Production of 4-Cyclohexyl-1-((E)-2-decenoyl)piperazine [Compound 23]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and 1-cyclohexylpiperazine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | 1-cyclohexylpiperazine | C1(CCCCC1)N1CCNCC1 | C10H20N2
product | 4-Cyclohexyl-1-((E)-2-decenoyl)piperazine | C1(CCCCC1)N1CCN(CC1)C(\C=C\CCCCCCC)=O | C20H36N2O
